US03983241
1-allyloxycarbonyl-2-amino-4,5-dicyanoimidazole
2 g of 2-amino-4,5-dicyanoimidazole and 2 g of allyl chloroformate were added to 20 ml of acetone and further 3 ml of water solution containing 20% of sodium hydroxide was added dropwise to it under stirring at a temperature of 15° to 20°C. After the resulting solution was stirred during an hour at a room temperature, it was poured into ice-water and thereby white crystal was separated out.

reactant | 2-amino-4,5-dicyanoimidazole | 2 g | NC=1NC(=C(N1)C#N)C#N | C5H3N5
reactant | allyl chloroformate | 2 g | ClC(=O)OCC=C | C4H5ClO2
reactant | acetone | 20 ml | CC(=O)C | C3H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 3 ml | O | H2O
product | 1-allyloxycarbonyl-2-amino-4,5-dicyanoimidazole | C(C=C)OC(=O)N1C(=NC(=C1C#N)C#N)N | C9H7N5O2
